US08048877B2
(±)-trans-1,3-Bis-(3,4-difluoro-benzyl)octahydro-benzoimidazol-2-ylideneamine (Compound 5)
The title compound was prepared from (±)-trans-1,2-cyclohexanediamine and 3,4-difluorobenzaldehyde by Procedure C. After reacting with cyanogen bromide, the reaction mixture was evaporated to dryness and the crude product washed with ether and recrystallized from MeOH to give the title compound as the hydrogen bromide salt (mp 238-240° C.). MS (ES+) m/z 392 ([M+1]+, 100).

reactant | (±)-trans-1,2-cyclohexanediamine | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | cyanogen bromide | N#CBr | CBrN
product | (±)-trans-1,3-Bis-(3,4-difluoro-benzyl)octahydro-benzoimidazol-2-ylideneamine | FC=1C=C(CN2C(N([C@H]3[C@H]2CCCC3)CC3=CC(=C(C=C3)F)F)=N)C=CC1F | C21H21F4N3
